US07825256B2
A solution of piperonal (5.00 g, 33.3 mmol) and tert-butyl N-(2-aminoethylcarbamate (5.00 g, 31.2 mmol) in dry dioxane (70 mL) and AcOH (10 mL) was heated at 80° C. for 2 h. The solvent was evaporated prior to sequential addition of anhydrous THF (50 mL), MeOH (20 mL) and sodium triacetoxyborohydride (15.8 g, 74.5 mmol). The mixture was stirred for an additional 30 min then the solvent was removed under vacuum. NaOH solution (20% aqueous, w/w) was added to make the solution basic (pH 9), and the solution was extracted with EtOAc (150 mL). When the extracts were washed with brine, a precipitate formed in the funnel. It was filtered and dried to give 7.50 g (82%) of {2-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-ethyl}-carbamic acid tert-butyl ester as a white solid.

reactant | piperonal | 33.3 mmol, 5.00 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 2-aminoethylcarbamate | 31.2 mmol, 5.00 g | NCCNC([O-])=O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | sodium triacetoxyborohydride | 74.5 mmol, 15.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | MeOH | 20 mL | CO | CH4O
product | {2-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-ethyl}-carbamic acid tert-butyl ester | 7.50 g, 82% | C(C)(C)(C)OC(NCCNCC1=CC2=C(OCO2)C=C1)=O | C15H22N2O4
